US07683056B2
2-[3,5-bis(trifluoromethyl)phenyl]-N-{6-[(7S,9aS)-7-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl]-4-[2-(hydroxymethyl)phenyl]-3-pyridinyl}-N,2-dimethylpropanamide (D61)
2-[3,5-bis(trifluoromethyl)phenyl]-N-[6-[(7S,9aS)-7-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl]-4-(2-formylphenyl)-3-pyridinyl]-N,2-dimethylpropanamide (D60, 27.7 mg, 0.0356 mmol) was suspended in dry THF (1.5 mL) before adding sodium borohydride (3 mg, 0.078 mmol) and stirring for 1 hour. Added more sodium borohydride (3 mg, 0.078 mmol) and left stirring for a further 1 and ½ hours. Reaction quenched with water, diluted with EtOAc. Organic layer washed with water, dried (MgSO4). Filtered. Solvent evaporated to afford the title compound as an off white solid in 89% yield. Used crude in the next step.

reactant | 2-[3,5-bis(trifluoromethyl)phenyl]-N-[6-[(7S,9aS)-7-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl]-4-(2-formylphenyl)-3-pyridinyl]-N,2-dimethylpropanamide | 0.0356 mmol, 27.7 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=CC=C1)C=O)N1C[C@H]2COCCN2C[C@H]1CO[Si](C)(C)C(C)(C)C)(C)C)(F)F | C39H48F6N4O4Si
reactant | sodium borohydride | 0.078 mmol, 3 mg | [BH4-].[Na+]
reactant | sodium borohydride | 0.078 mmol, 3 mg | [BH4-].[Na+]
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | 2-[3,5-bis(trifluoromethyl)phenyl]-N-{6-[(7S,9aS)-7-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl]-4-[2-(hydroxymethyl)phenyl]-3-pyridinyl}-N,2-dimethylpropanamide | 89% yield | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=CC=C1)CO)N1C[C@H]2COCCN2C[C@H]1CO[Si](C)(C)C(C)(C)C)(C)C)(F)F | C39H50F6N4O4Si
